Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
Patient is post ERCP
Impression: •The scout film was normal. 
•The bile duct was successfully cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire. 
•Contrast was injected and there was brisk flow through the 
ducts. 
•Contrast extended to the entire biliary tree. 
•Contrast injection revealed a filling defect in the lower third 
CBD. 
•A biliary sphincterotomy was successfully performed with the 
sphincterotome. 
•There was no post-sphincterotomy bleeding. 
•The sphincterotome was exchanged for a balloon.
• The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation. 
•Small amount of sludge was successfully removed. 
•No stone was seen. 
•The CBD and CHD were swept repeatedly until no further sludge 
was seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 
•I supervised the acquisition and interpretation of the 
fluoroscopic images.
• The quality of the fluoroscopic images was good. 
•Otherwise normal ercp to third part of the duodenum
 

Recommendations: NPO overnight with aggressive IV hydration with 
LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
Recommend surgical evaluation for possible cholecystectomy.
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call Advanced 
Endoscopy Fellow on call ___ 

 
History of Present Illness:
HPI(4): 
___ p/w jaundice.  

Per ED, the patient was admitted to ___ over the
past 48 hours and found to have T bili of 9, elevated LFTs, and 
a
large number of gallstones on ultrasound and MRI. She was
discharged AMA this morning because she was told she would need
surgery, and stated she preferred to receive care at ___ 
___,
and is therefore presenting to the ER here. EKG sinus at 65 with
normal axis, normal intervals, no ST elevation or depression, no
ischemic appearing T-wave inversions.  On exam, ED stated 
scleral
icterus, moderate jaundice, nontender moderately obese abdomen,
clear lungs

ED attempted to obtain records from ___, which she did 
not
come with.  Per ED, found to have positive UA, however she is
denying urinary symptoms, we will await culture results before
treating. Discussed with surgery team, they feel patient would
benefit most from review of MRCP, potential ERCP for
decompression, and medical admission. ERCP team contacted.

I reviewed VS, labs, orders, imaging, old records, meds.

___ 01:30PM BLOOD WBC: 9.8 Hct: 38.3 AbsLymp: 3.97* 
AbsMono:
0.95* ___: 13.2* ___: 1.2* Plt Ct: 330 
___ 01:30PM BLOOD Creat: 0.5 HCO3: 21* ALT: 900* AST: 523*
AlkPhos: 190* TotBili: 8.8* DirBili: 6.9* IndBili: 1.9 Lipase: 
27
Albumin: 3.9 
___ 01:20PM URINE Appear: Hazy* Protein: TR* Bilirub: MOD*
Urobiln: 2* Leuks: TR* WBC: 12* Bacteri: FEW* AmorphX: RARE*
Mucous: FEW* 
___ 1:20 pm URINE
  
   URINE CULTURE (Pending): 
 
Imaging
liver gb US
 
 LIVER: The hepatic parenchyma appears within normal limits. The
contour of the 
 liver is smooth. A simple appearing hepatic cyst in the right
hepatic lobe 
 measures 1.2 x 1.1 x 1.1 cm. There is no focal liver mass. The
main portal 
 vein is patent with hepatopetal flow. There is no ascites. 
 
 BILE DUCTS: There is no intrahepatic biliary dilation. The CHD
measures 3 mm. 
 
 GALLBLADDER: There is cholelithiasis with circumferential
gallbladder wall 
 edema and trace pericholecystic fluid, though the gallbladder 
is
only mildly 
 distended. 
 
 PANCREAS: The imaged portion of the pancreas appears within
normal limits, 
 without masses or pancreatic ductal dilation, with portions of
the pancreatic 
 tail obscured by overlying bowel gas. 
 
 SPLEEN: Normal echogenicity, measuring 10.3 cm. 
 
 KIDNEYS: Limited views of the right kidney show no
hydronephrosis. 
 
 RETROPERITONEUM: The visualized portions of aorta and IVC are
within normal 
 limits. 
 
 IMPRESSION:  
 
 Cholelithiasis, gallbladder wall edema, and trace
pericholecystic fluid,  findings which can be seen in acute
cholecystitis, though the gallbladder is only mildly distended.
Recommend correlation with outside hospital ultrasound 
 and MRCP reported in the ___ medical record. If outside
hospital images  are provided, an addendum with comparisons 
could
be provided. 
 
EKG reviewed - sinus rhythm

I reviewed outpatient notes.  Was being treated for depression,
pancix attacks, inability to concentrate, no SI, 

I reviewed ERCP note
Impression: •The scout film was normal. 
•The bile duct was successfully cannulated using a Rx
sphincterotome preloaded with 0.035in guidewire. 
•Contrast was injected and there was brisk flow through the
ducts. 
•Contrast extended to the entire biliary tree. 
•Contrast injection revealed a filling defect in the lower third
CBD. 
•A biliary sphincterotomy was successfully performed with the
sphincterotome. 
•There was no post-sphincterotomy bleeding. 
•The sphincterotome was exchanged for a balloon.
• The biliary tree was swept with a 9-12mm balloon starting at
the bifurcation. 
•Small amount of sludge was successfully removed. 
•No stone was seen. 
•The CBD and CHD were swept repeatedly until no further sludge
was seen. 
•The final occlusion cholangiogram showed no evidence of filling
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and
fluoroscopically. 
•I supervised the acquisition and interpretation of the
fluoroscopic images.
• The quality of the fluoroscopic images was good. 
•Otherwise normal ercp to third part of the duodenum
 

Recommendations: NPO overnight with aggressive IV hydration with
LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear
liquids and then advance as tolerated
Recommend surgical evaluation for possible cholecystectomy.
Follow for response and complications. If any abdominal pain,
fever, jaundice, gastrointestinal bleeding please call Advanced
Endoscopy Fellow on call ___ 

___ d/w patient.  She reiterates information above.  She noted
jaundice and decreased appetite x2 days.  Went to ___ and
had work up as above.  MRCP done.  She signed to allow for
requisition of paperwork from ___.  She denied nausea,a
vomiting, fever, chills, ab pain, diarrhea, constipation.,
dysuria, urinary frequency

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
ASEPTIC MENINGITIS                                              
viral- ___ ___                                           

G8P2M3                                                          
___- uncertain ___ C-sections x 2 large babies     
Supracervical hysterectomy- ___- ovaries in                  

TOBACCO ABUSE                                                   
DEPRESSION       
ADD                                               

 
Social History:
Social History
Country of Origin:  ___                                         
Marital status:     Married, # years: ___                        
Name ___             ___                                      
___:                                               
Children:           Yes: 3 children,  all girls- ___,3          
Lives with:         ___ Children                  
Lives in:           House                                       
Work: ___
Tobacco use:        Former smoker                               
Tobacco Use         electric cigarrette                          


counseling offered:                                             
     Year Quit:     ___                                        
     Years Since    5                                           
     Quit:                                                      
     # Packs/Day:    1                                          
     # Years Smoked: 14                                         
     Pack Years:    14                                          
Alcohol use:        Past and Present                            
drinks per week:    7                                       
 
Family History:
Family History
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  PERSONALITY DISORDER                      
                      OCD                                       
                      PRE-DIABETES                              

Father   Living   ___  PRE-DIABETES                              

Sister   Living   ___                                            

Sister   Living   ___  THYROID NODULE                            

MGM      Deceased     SCHIZOPHRENIA                             

PGF      Living       CORONARY ARTERY            premature      
                      DISEASE                                   

PGM                   THYROIDITIS                       
 
Physical Exam:
Admission Physical Exam:
EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: LUQ TTP, otherwise nondistended
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: jaundice
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission Labs: 
___ 01:30PM BLOOD WBC-9.8 RBC-4.69 Hgb-11.7 Hct-38.3 MCV-82 
MCH-24.9* MCHC-30.5* RDW-18.7* RDWSD-54.0* Plt ___
___ 01:30PM BLOOD ___ PTT-32.6 ___
___ 01:30PM BLOOD Glucose-94 UreaN-4* Creat-0.5 Na-137 
K-4.1 Cl-103 HCO3-21* AnGap-13
___ 01:30PM BLOOD ALT-900* AST-523* AlkPhos-190* 
TotBili-8.8* DirBili-6.9* IndBili-1.9
___ 08:10AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 01:40PM BLOOD AMA-PND Smooth-PND
___ 01:40PM BLOOD ___
___ 01:40PM BLOOD IgG-1417
___ 01:40PM BLOOD HIV Ab-NEG
___ 08:10AM BLOOD HCV Ab-POS*
___ 01:40PM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-PND

Discharge Labs:
AMA, no labs
 
Brief Hospital Course:
___ woman with history of a spontaneous abortion
complicated by hemorrhage requiring multiple transfusions in the
___ with resultant depression who presented to ___ on ___ with complaints of jaundice for the last 
several
days.

ACUTE/ACTIVE PROBLEMS:
# Transaminitis, 
# Concern for acute hep C infection: Patient presented with
elevated transaminases with an ALT up to 1000 and a STN to the 6
and 700s, elevated total bilirubin to the eights, and elevated
alk phos.  There is initial concern at the outside hospital for
biliary obstruction.  She underwent a right upper quadrant and a
MRCP at the outside hospital without evidence of biliary
obstruction.  She ultimately left AGAINST MEDICAL ADVICE and
represented to ___ for further evaluation.  Here her
right upper quadrant shows a patent portal vein as well as no
intra-or extrahepatic biliary dilation.  She underwent an ERCP 
on
___ which had a small amount of sludge but no other findings. 
Her LFTs are starting to trend down.  She recently got a tattoo
approximately ___ weeks ago on her right wrist.  Her hepatitis 
C
antibody is positive and she has a viral load of log 5.7. HIV 
negative. 
- Hepatitis C viral load and genotype pending at discharge. 
- ___, IgG, AMA pending at discharge.
- Discussed with Liver team post discharge who are trying to 
arrange outpatient liver follow-up. 
- S/p ERCP so no AC or ASA/NSAIDS for 5 days (4 days post 
discharge). 

CHRONIC/STABLE PROBLEMS:
# Depression: 
- Continued home Wellbutrin, but held home Abilify given risk 
for
hepatotoxicity

# ADD: 
-Continued home medication

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 2 mg PO DAILY 
2. BuPROPion XL (Once Daily) 300 mg PO DAILY 
3. dextroamphetamine-amphetamine 20 mg oral BID 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO DAILY  
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  dextroamphetamine-amphetamine 20 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis C virus
Weight loss
Post ERCP for concern of cholecystitis

 
Discharge Condition:
Worsening jaundice, bleeding, vomiting, poor appetite, weakness, 
fatigue, dehydration, shortness of breath, pale skin, chest 
pain, fever, headache, diarrhea, nausea, any worrisome symptoms 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are choosing to leave against medical advance.  You have 
been explained the risks of leaving including worsening 
hepatitis, liver failure, bleeding, vomiting, loss of appetite, 
worsening jaundice, including unforeseen possible complications 
and death.  You have also been warned that leaving AMA will 
result in not having your full work up completed, may result in 
lapses of care, incomplete work up, unevaluated or lost labwork, 
and other complications with your care plan as it is written by 
a physician who is not your primary hospitalist, and because it 
is late, your subspecialities services are on coverage, and not 
your primary coverage teams.

As you are leaving against medical advice, please schedule 
follow up appointments immediately on discharge with:

Your primary care physician, if you do not have a primary care 
physician, please schedule a follow up with ___

___ clinic if possible with doctor ___ 
or
___  - ___

General surgery clinic if possible with doctor ___ 
or
___ - ___

You should call the ___ medical record ___ in the 
morning tomorrow and requisition all records from this current 
stay.  If you have pending labs, you should call back the 
following day.  You should also call back and request a 
discussion with your primary attending ___ to determine 
if there is any further follow up information you still need 
that you do not have.  You should also call ___ 
___'s record department and request all your paperwork, 
labs, and imaging from your recent admission.  You should bring 
all this information with you to all of your follow up 
appointments.

If you experience worsening jaundice, bleeding, fever, vomiting, 
weigth loss, or any other worrisome symptoms you should return 
to the emergency department immediately.

 
Followup Instructions:
___